**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Line Filter 
* Matchcode:              WE-CNSA
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-01-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 0805_784231061_67ohm 1 2 3 4
X1  1  2  3  4  CNSA  
+  L1=61.3001n
+  L2=62.1620n
+  L3=13.3422n
+  L4=54.6785n
+  C1=35.2735p
+  RS1=97.7477
+  RS2=9.2767
+  RS3=824.2056
+  RS4=3.8468k
+  R2=715.7781
+  dL3=343.8576p
+  dC3=6.0134p
+  DR3=675.6842
+  DR4=142.9781
+  Rdc=0.25
+  ck=5.0910p
.ends 0805_784231061_67ohm
*****
.subckt 0805_784231091_90ohm 1 2 3 4
X1  1  2  3  4  CNSA  PARAMS:
+  L1=50.6597n
+  L2=95.1175n
+  L3=15.7910n
+  L4=6.7634n
+  C1=13.9595f
+  RS1=729.4963
+  RS2=156.2918
+  RS3=379.4377
+  RS4=410.0680
+  R2=325.2338
+  dL3=391.8602p
+  dC3=106.6866f
+  DR3=168.0690
+  DR4=359.5189
+  Rdc=0.3
+  ck=3.3772p
.ends 0805_784231091_90ohm
*****
.subckt 0805_784231121_120ohm 1 2 3 4
X1  1  2  3  4  CNSA  PARAMS:
+  L1=55.0197n
+  L2=70.4975n
+  L3=110.2943n
+  L4=48.3324n
+  C1=32.6036f
+  RS1=193.3394
+  RS2=28.5251
+  RS3=163.6962
+  RS4=783.7053
+  R2=35.2518
+  dL3=336.5622p
+  dC3=9.9999f
+  DR3=10.0005
+  DR4=149.1075
+  Rdc=0.3
+  ck=5.4036p
.ends 0805_784231121_120ohm
*****
.subckt 0805_784231181_180ohm 1 2 3 4
X1  1  2  3  4  CNSA  PARAMS:
+  L1=259.4568n
+  L2=52.8697n
+  L3=37.0959n
+  L4=42.4253n
+  C1=11.4100f
+  RS1=305.2461
+  RS2=389.6341
+  RS3=458.6012
+  RS4=543.3033
+  R2=20.0553
+  dL3=454.7764p
+  dC3=17.1002p
+  DR3=179.9805
+  DR4=518.5033
+  Rdc=0.35
+  ck=5.3204p
.ends 0805_784231181_180ohm
*****
.subckt 0805_784231261_260ohm 1 2 3 4
X1  1  2  3  4  CNSA  PARAMS:
+  L1=329.8253n
+  L2=74.0714n
+  L3=69.6330n
+  L4=68.6305n
+  C1=28.6298f
+  RS1=392.5062
+  RS2=626.6374
+  RS3=628.3177
+  RS4=620.2937
+  R2=12.8183
+  dL3=688.1120p
+  dC3=11.3829f
+  DR3=1.0002
+  DR4=287.7703
+  Rdc=0.4
+  ck=2.2307p
.ends 0805_784231261_260ohm
*****
.subckt 0805_784231371_370ohm 1 2 3 4
X1  1  2  3  4  CNSA  PARAMS:
+  L1=501.9526n
+  L2=107.6264n
+  L3=106.3904n
+  L4=106.1505n
+  C1=28.3149f
+  RS1=482.1618
+  RS2=730.1847
+  RS3=729.4588
+  RS4=729.6500
+  R2=13.7909
+  dL3=433.0409p
+  dC3=70.7123f
+  DR3=9.9765
+  DR4=123.3352
+  Rdc=0.45
+  ck=8.0772p
.ends 0805_784231371_370ohm
*****
.SUBCKT  CNSA  1  2  3  4  PARAMS:
R_R47  N21893  N21911  {Rs3}
R_R43  N21425  N21441  {Rs2}
R_R4  N22217  N21871  {dR3}
L_L3  N21425  N21441  {L2}
L_L8  N21871  N21893  {L4}
Kn_K1  L_L1  L_L2  1
R_R37  N21241  3  {R2}
R_R48  N21911  N21925  {Rs2}
R_R44  N21441  3  {Rs1}
C_C4  N21871  N22231  {C1}
L_L1  N21441  3  {L1}
C_C1  N21207  N21217  {dC3}
L_L6  N21893  N21911  {L3}
R_R1  1  N21207  {Rdc}
L_L17  N21207  N21585  {dL3}
R_R49  N21925  4  {Rs1}
Kn_K5  L_L17  L_L18  
+  L_L19  L_L20  0.9999
R_R3  N21217  N21223  {dR3}
R_R55  N22231  4  {R2}
L_L4  N21911  N21925  {L2}
R_R2  N21207  N21223  {dR4}
L_L19  N21585  N21223  {dL3}
R_R6  2  N21857  {Rdc}
C_C2  N21731  N21585  {ck}
Kn_K4  L_L7  L_L8  1
L_L2  N21925  4  {L1}
R_R41  N21223  N21413  {Rs4}
L_L7  N21223  N21413  {L4}
R_R5  N21857  N21871  {dR4}
L_L18  N21731  N21857  {dL3}
Kn_K3  L_L5  L_L6  1
R_R46  N21871  N21893  {Rs4}
R_R42  N21413  N21425  {Rs3}
L_L5  N21413  N21425  {L3}
C_C9  N21857  N22217  {dC3}
L_L20  N21871  N21731  {dL3}
Kn_K2  L_L3  L_L4  1
C_C3  N21223  N21241  {C1}
.ends  CNSA
*****